US07396844B1
Synthesis of (2S)—N-(3-amidinophenyl)-2-(benzenesulfonylamino)-3-[4-[1-(benzyloxycarbonyl)-4-piperidyloxy]phenyl]propionamide
1.75 g (3.26 mmol) of methyl (2S)-2-(benzenesulfonylamino)-3-[4-[1-(benzyloxycarbonyl)-4-piperidyloxy]phenyl]propionate was dissolved in a mixed solvent of 10 ml of methanol and 10 ml of tetrahydrofuran. 6.52 ml (6.52 mmol) of 1 N aqueous sodium hydroxide solution was added to the solution, and they were stirred at 50° C. overnight. The reaction mixture was washed with ether and then made acidic with concentrated hydrochloric acid. After the isolation process with dichloromethane as the extractant in the same manner as that of step 1 in Example 1, an oily residue was obtained, which was dissolved in 60 ml of pyridine. 747 mg (3.61 mmol) of 3-aminobenzamidine dihydrochloride and 750 mg (3.92 mmol) of WSC were added to the solution, and they were stirred at room temperature overnight. The solvent was distilled off, and the residue was purified by the silica gel column chromatography to obtain the title compound.

reactant | methyl (2S)-2-(benzenesulfonylamino)-3-[4-[1-(benzyloxycarbonyl)-4-piperidyloxy]phenyl]propionate | 3.26 mmol, 1.75 g | C1(=CC=CC=C1)S(=O)(=O)N[C@H](C(=O)OC)CC1=CC=C(C=C1)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C29H32N2O7S
reactant | sodium hydroxide | 6.52 mmol, 1 N, 6.52 ml | [OH-].[Na+]
reactant | 3-aminobenzamidine dihydrochloride | 3.61 mmol, 747 mg | Cl.Cl.NC=1C=C(C(=N)N)C=CC1
reactant | WSC | 3.92 mmol, 750 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | methanol | 10 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | pyridine | 60 ml | N1=CC=CC=C1 | C5H5N
product | (2S)—N-(3-amidinophenyl)-2-(benzenesulfonylamino)-3-[4-[1-(benzyloxycarbonyl)-4-piperidyloxy]phenyl]propionamide | C(N)(=N)C=1C=C(C=CC1)NC([C@H](CC1=CC=C(C=C1)OC1CCN(CC1)C(=O)OCC1=CC=CC=C1)NS(=O)(=O)C1=CC=CC=C1)=O | C35H37N5O6S
